US06825188B2
c) (±)-8-[3-(2-Pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid
A mixture of ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate (0.7 g, 2 mmol), lithium hydroxide monohydrate (0.12 g, 3 mmol), 5 mL THF (5 mL), H2O (5 mL), and MeOH (2 mL) was stirred at room temperature for 18 hr, then was then concentrated. The residue was partitioned between ethyl acetate and water, and the layers were separated. The aqueous phase was cautiously brought to pH 4 with 3 N HCl and allowed to stand. The resulting crystals were collected by filtration and dried to give the title compound (0.4 g, 65%) as a tan solid: MS m/e 370.4 (M+H)+. Anal. Calcd for C20H23N3O4.0.25 H2O: C, 64.25; H, 6.34; N, 11.24. Found: C, 64.02; H, 6.37; N, 11.20.

reactant | ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 2 mmol, 0.7 g | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)OCC)C=C1 | C22H27N3O4
reactant | lithium hydroxide monohydrate | 3 mmol, 0.12 g | O.[OH-].[Li+]
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | H2O | 5 mL | O | H2O
solvent | MeOH | 2 mL | CO | CH4O
product | (±)-8-[3-(2-Pyridylamino)-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | 0.4 g, 65% | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)O)C=C1 | C20H23N3O4
